* C:\work\E344\E344\Ass3\E344_A3_heart.asc
V1 Vheartsensor 0 PWL file=HeartSensorPWL.csv
V4 N001 0 9
R_Sense 9V N001 0.010
XU1 9V 0 5V LM7805
C1 9V 0 0.33µ
C2 5V 0 0.1µ
R1 5v h 84k
R2 h 0 150k
XU2 h ref 5v 0 ref TL081
R3 5v N002 500k
R4 N002 0 500k
XU3 N002 e 5v 0 e TL081
R5 d c 100k
R6 c high-pass-out 100k
C3 c filter-out 900n
C4 0 d 450n
XU4 d filter-out 5v 0 filter-out TL081
R7 f filter-out 10k
R8 amplify f 460k
XU5 b high-pass-out 5v 0 high-pass-out TL081
R9 b e 2000k
R10 high-pass-out a 750530
C5 b a 0.1µ
C6 a Vheartsensor 0.1µ
R11 N003 amplify 10k
R12 N004 ref 10k
R13 Vheartpulsesout N004 1000k
XU6 N004 N003 5v 0 Vheartpulsesout LT1018
XU7 e f 5v 0 amplify TLC2272
.tran 0 {transtop} 0 {timestep}
.include A3heartcfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Vheartsensor" to your \n               conditioning circuit's input\n  * Connect "Vheartpulsesout" to your output signal.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* =============================\nREPLACE WITH YOUR DETAILS\nE. Stewdent.,  00024601\nVheartsensor offset = 500 mV\nVheartsensor ampl = 20 mV\n=============================
* ==========================================================================================\nHeart signal conditioning circuit (only copy and paste the given op-amps, or use those given in the working directory only)\n==========================================================================================
* =============================\nVoltage regulation (complete this)\n=============================
.incl TLC2272.LIB
.incl TL081.LIB
.incl LM78XX_RS.lib
* Connect to your conditioning circuit's output
* =============================\nIncludes (don't fiddle with this!!)\n=============================
* =======================================\nYour circuit goes here, these are just placeholders.\n=======================================
.lib LM78XX_RS.lib
.lib LTC1.lib
.backanno
.end
